US08008307B2
Step a: N(4)-[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]-oxy}methyl)cyclopentyl]-5-chloro-3-nitropyridine-2,4-diamine
A solution of 4,5-dichloro-3-nitropyridin-2-amine (0.0365 g, 0.000175 mol) (Johansson, H; Lawitz, K; Nikitidis, G; Sjoe, P; Storm, P. PCT Int. Application WO2004/01661-1), (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]-oxy}methyl)cyclopentanamine (0.0947 g, 0.000263 mol) and DIPEA (0.0907 g, 0.000702 mol) in ethanol (10.0 mL) was refluxed overnight. The reaction was concentrated and purified by flash chromatography (30% EtOAc/hexanes) to afford the title compound (0.0768 g, 82%) as a yellow solid.

reactant | 4,5-dichloro-3-nitropyridin-2-amine | 0.000175 mol, 0.0365 g | ClC1=C(C(=NC=C1Cl)N)[N+](=O)[O-] | C5H3Cl2N3O2
reactant | (1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]-oxy}methyl)cyclopentanamine | 0.000263 mol, 0.0947 g | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)N | C18H41NO2Si2
reactant | DIPEA | 0.000702 mol, 0.0907 g | CCN(C(C)C)C(C)C | C8H19N
solvent | ethanol | 10.0 mL | C(C)O | C2H6O
product | N(4)-[(1R,3S,4S)-3-{[tert-butyl(dimethyl)silyl]oxy}-4-({[tert-butyl(dimethyl)silyl]-oxy}methyl)cyclopentyl]-5-chloro-3-nitropyridine-2,4-diamine | 0.0768 g, 82% | [Si](C)(C)(C(C)(C)C)O[C@H]1C[C@@H](C[C@H]1CO[Si](C)(C)C(C)(C)C)NC1=C(C(=NC=C1Cl)N)[N+](=O)[O-] | C23H43ClN4O4Si2
